US07977477B2
A mixture of o-phenylenediamine (1.51 g, 14.0 mmol), 4-amino-1H-pyrazole-3-carboxylic acid (2.00 g, 12.7 mmol), EDC (2.93 g, 15.3 mmol) and HOBt (2.08 g, 15.3 mmol) in DMF (70 ml) was stirred at ambient temperature for 24 h. The mixture was reduced in vacuo and the residue dissolved in AcOH (150 ml) and heated at reflux for 3 h. The solvent was removed in vacuo, water (100 ml) added and the resultant solid collected by filtration washing with water. The solid was dried through azeotrope with toluene (3×150 ml) yielding 2-(4-nitro-1H-pyrazol-3-yl)-1H-benzimidazole as a yellow solid (1.44 g, 50%). A 100 mg portion was purified by preparative LC/MS and following evaporation of product containing fractions gave 70 mg of the title compound. (LC/MS: Rt 1.72, [M+H]+ 229.61).

reactant | o-phenylenediamine | 14.0 mmol, 1.51 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 4-amino-1H-pyrazole-3-carboxylic acid | 12.7 mmol, 2.00 g | NC=1C(=NNC1)C(=O)O | C4H5N3O2
reactant | EDC | 15.3 mmol, 2.93 g
reactant | HOBt | 15.3 mmol, 2.08 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
solvent | AcOH | 150 ml | CC(=O)O | C2H4O2
product | 2-(4-nitro-1H-pyrazol-3-yl)-1H-benzimidazole | 1.44 g, 50% | [N+](=O)([O-])C=1C(=NNC1)C1=NC2=C(N1)C=CC=C2 | C10H7N5O2
